US05001125
A mixture of 4.5 parts of 3,6-dichloropyridazine, 5.2 parts of 1,2,3,6-tetrahydro-4-(3-methylphenyl)pyridine, 5.3 parts of sodium carbonate and 72 parts of N,N-dimethylformamide was stirred and heated overnight at about 70° C. The reaction mixture was evaporated and water was added to the residue. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by filtration over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2.1 parts (24%) of 3-chloro-6-[3,6-dihydro-4-(3-methylphenyl)-1(2H)-pyridinyl]pyridazine; mp. 122.2° C. (compound 28).

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 1,2,3,6-tetrahydro-4-(3-methylphenyl)pyridine | CC=1C=C(C=CC1)C=1CCNCC1 | C12H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-chloro-6-[3,6-dihydro-4-(3-methylphenyl)-1(2H)-pyridinyl]pyridazine | 24% | ClC=1N=NC(=CC1)N1CCC(=CC1)C1=CC(=CC=C1)C | C16H16ClN3
